US07125896B2
b) 2-(Benzyloxyethoxy)-5-bromopyridine
Prepared from 2,5-dibromopyridine and benzyloxy-2-ethanol by the method of Example 10 (b).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | benzyloxy-2-ethanol | C(C1=CC=CC=C1)OCCO | C9H12O2
product | 2-(Benzyloxyethoxy)-5-bromopyridine | C(C1=CC=CC=C1)OCCOC1=NC=C(C=C1)Br | C14H14BrNO2
